US07572809B2
Similar procedure as described in example 305 was used, starting from 4-fluoro-benzenethiol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-fluoro-phenylsulfanyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 351 (MH+).

reactant | 4-fluoro-benzenethiol | FC1=CC=C(C=C1)S | C6H5FS
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | [1-(4-fluoro-phenylsulfanyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | FC1=CC=C(C=C1)SC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C19H15FN4S
